US07728025B2
(Step 2) Production of N-(4-benzyloxy-3-fluorophenyl)pyrazinecarboxamide
2.59 g of pyrazine-2-carboxylic acid and 4.73 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride were added to a pyridine (60 ml) solution of 4.13 g of 4-benzyloxy-3-fluoroaniline, and the reaction liquid was stirred overnight at room temperature. Pyridine was evaporated away under reduced pressure, and then water was added to it. The resulting deposit was taken out through filtration to obtain the entitled compound as a brown solid.

reactant | pyrazine-2-carboxylic acid | 2.59 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 4.73 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-benzyloxy-3-fluoroaniline | 4.13 g | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)F | C13H12FNO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-benzyloxy-3-fluorophenyl)pyrazinecarboxamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F | C18H14FN3O2
